US05185333
7.1 Grams of methyl 6-chloro-4-methyl-3,4-dihydro-2H-1,4-benzoxazine-8-carboxylate and 3.8 g of sodium hydroxide were dissolved in a mixed solvent obtained by mixing 50 ml of methanol and 100 ml of water, and the resulting solution was heated at 70° C. for 2 hours with stirring. The liquid reaction mixture was added to 300 ml of water, and 6 ml of concentrated hydrochloric acid was added thereto. The resulting insoluble substance was filtered off, washed with water, and dried, thereby obtaining 5.8 g of 6-chloro-4-methyl- 3,4-dihydro-2H-1,4-benzoxazine-8-carboxylic acid. Melting point: 202°-204° C.

reactant | methyl 6-chloro-4-methyl-3,4-dihydro-2H-1,4-benzoxazine-8-carboxylate | ClC=1C=C(C2=C(N(CCO2)C)C1)C(=O)OC | C11H12ClNO3
reactant | sodium hydroxide | 3.8 g | [OH-].[Na+]
reactant | methanol | 50 ml | CO | CH4O
reactant | hydrochloric acid | 6 ml | Cl | ClH
solvent | water | 300 ml | O | H2O
solvent | water | 100 ml | O | H2O
product | 6-chloro-4-methyl- 3,4-dihydro-2H-1,4-benzoxazine-8-carboxylic acid | 5.8 g | ClC=1C=C(C2=C(N(CCO2)C)C1)C(=O)O | C10H10ClNO3
